US07435735B2
Step 1: N2-Benzyloxycarbonyl-N1-(2,2-dimethoxyethyl)-N1-methylglycinamide
A solution of N-(2,2-dimethoxyethyl)-N-methylamine (760 g, 6.38 mmol), N-CBZ-glycine (1337.6 g, 6.39 mol), EDC (1225.8 g, 6.39 mol), and HOBt (107.7 g, 0.70 mol), and N,N-diisopropylethylamine (172 mL) in anhydrous DMF (12 L) was stirred at room temperature overnight. The reaction mixture was diluted with water (24 L) and extracted with dichloromethane (3×10 L). The organic extracts were combined, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to provide the title compound.

reactant | N-(2,2-dimethoxyethyl)-N-methylamine | 6.38 mmol, 760 g | COC(CNC)OC | C5H13NO2
reactant | N-CBZ-glycine | 6.39 mol, 1337.6 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | EDC | 6.39 mol, 1225.8 g
reactant | HOBt | 0.70 mol, 107.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 172 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 12 L | CN(C)C=O | C3H7NO
solvent | water | 24 L | O | H2O
product | N2-Benzyloxycarbonyl-N1-(2,2-dimethoxyethyl)-N1-methylglycinamide | C(C1=CC=CC=C1)OC(=O)NCC(=O)N(C)CC(OC)OC | C15H22N2O5
